US03996303
245 grams of 4-methyl-5,6-dihydro-(2H)-pyran was dissolved into 500 milliliters of benzene in a reactor, in which 12.5 grams of zinc chloride was suspended, and into the suspension was added dropwise 196 grams of acetyl chloride in 6 hours 55 minutes. During the foregoing operation the reactor was cooled in an ice-water bath to maintain the reaction temperature below 5.5° C. After the completion of the dropwise addition of acetyl chloride the system was still cooled in the ice-water bath for 35 minutes while stirring. Then, 100 milliliters of water was added to the reaction system, still continuing cooling the system with ice-water, whereby the reaction was stopped. The temperature rise of the reaction system at the time of adding water was only up to 25.5° C. The aqueous layer was then separated from the benzene layer of the reaction system, and the benzene layer was washed with 100 milliliters of water three times and subsequently with 100 milliliters of saturated aqueous solution of sodium bicarbonate twice. Then, under slightly reduced pressure benzene was distilled off from the benzene layer, and by subsequent distillation a fraction of the boiling point range of lower than 87.0° C./3.1mmHg was collected to obtain 264.7 grams of 5-chloro-3-methyl-3-pentenyl acetate. The product obtained as above was identified to be a mixture of both cis-and trans-isomers on their y - g double bond by nuclear magnetic resonance spectroscopy. The product is a colorless transparent liquid having a sweet apple-like odor, boiling in the range of 82.8° C./3.0mmHg - 85.2° C./2.8mmHg, showing elementary analytic values; C, 54.7%; H, 7.5%; Cl, 19.8%; O, 18.0%; refractive index, nD30 ; 1.4606; and density, p430 ; 1.0623.

reactant | 4-methyl-5,6-dihydro-(2H)-pyran | 245 grams | CC1=CCOCC1 | C6H10O
reactant | benzene | 500 milliliters | C1=CC=CC=C1 | C6H6
reactant | acetyl chloride | 196 grams | C(C)(=O)Cl | C2H3ClO
reactant | water | 100 milliliters | O | H2O
solvent | zinc chloride | 12.5 grams | [Cl-].[Zn+2].[Cl-]
product | 5-chloro-3-methyl-3-pentenyl acetate | 264.7 grams | C(C)(=O)OCCC(=CCCl)C | C8H13ClO2
